US09079866B2
N-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alanine
Trifluoroacetic acid (0.5 mL) was added to a solution of tert-butyl N-{[4′-(2-aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alaninate (80 mg, 0.17 mmol) in DCM (1 mL) at rt. After 2 hours, the solution was concentrated to dryness and purified by HPLC to afford the title compound (70 mg, 89%). MS (ESI): mass calcd. for C19H17FN4O4S, 416.10; m/z found, 417.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.72 (s, 2H), 8.10 (dd, J=8.0, 1.2, 1H), 7.66 (m, 1H), 7.61-7.53 (m, 2H), 7.37 (m, 3H), 3.73 (q, J=7.2, 1H), 1.31 (d, J=7.2, 3H).

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-{[4′-(2-aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alaninate | 0.17 mmol, 80 mg | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)OC(C)(C)C)F | C23H25FN4O4S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-L-alanine | 70 mg, 89% | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)O)F | C19H17FN4O4S
